US06245790B1
To a solution of diisopropylamine (1.44 ml) in THF (8 ml) was added n-BuLi (1.56M solution in hexane, 70 ml) at −60° C. The mixture was warmed to 0° C., stirred for 10 minutes, and recooled to −60° C. To the mixture was added cyclohexanone (0.98 g) in THF (5 ml). After stirring for 1 hour, 3-methoxy-2-methylbenzaldehyde (1.5 g) was added and the mixture was stirred for 1.5 hours at the same temperature. The reaction mixture was quenched with saturated NH4Cl solution, warmed to room temperature, extracted with EtOAc. The organic layer was washed with water and brine, dried over magnesium sulfate, evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-EtOAc 4:1 to 2:1) to give 2-[hydroxy-(3-methoxy-2-methylphenyl)methyl]cyclohexanone (1.86 g) as an oil.

reactant | diisopropylamine | 1.44 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 1.56M, 70 ml | [Li]CCCC
reactant | cyclohexanone | 0.98 g | C1(CCCCC1)=O | C6H10O
reactant | 3-methoxy-2-methylbenzaldehyde | 1.5 g | COC=1C(=C(C=O)C=CC1)C | C9H10O2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-[hydroxy-(3-methoxy-2-methylphenyl)methyl]cyclohexanone | 1.86 g | OC(C1C(CCCC1)=O)C1=C(C(=CC=C1)OC)C | C15H20O3
